### PR TITLE
[Merged by Bors] - feat: convex hull of `s` is a singleton iff `s` is a singleton

### PR DESCRIPTION
**Pull request by YaelDillies**
Also fix the misnamed `convexHull_empty_iff`.

From MiscYD

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/Hull.lean [hunk 1]
```diff
@@ -78,18 +78,20 @@ theorem convexHull_empty : convexHull 𝕜 (∅ : Set E) = ∅ :=
...
   · intro h
     rw [← Set.subset_empty_iff, ← h]
     exact subset_convexHull 𝕜 _
   · rintro rfl
     exact convexHull_empty
 
+@[deprecated (since := "2025-08-09")] alias convexHull_empty_iff := convexHull_eq_empty
+
 @[simp]
 theorem convexHull_nonempty_iff : (convexHull 𝕜 s).Nonempty ↔ s.Nonempty := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Convex/Hull.lean:92]: Should this not be nonempty_convexHull_iff?

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Comment by sgouezel** [comment]
bors d+

File: Mathlib/Analysis/Convex/Hull.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Hull.lean:92]: No, [naming says](https://leanprover-community.github.io/contribute/naming.html#predicates-as-suffixes):
> Some widely used predicates don't follow this rule. Those are the predicates that are analogous to an atom already suffixed by the naming convention.

Here, `_nonempty` is analogous to `_eq_empty` which must come as a suffix due to symbol-reading. I am happy to add this explicitly to the exception list, since in practice this is what's followed.

**Comment by YaelDillies** [comment]
bors merge
